US07056930B2
3-(2-Benzyl-2-aza-bicyclo[3.3.1]non-5-yl)-benzamide
3-(2-Benzyl-2-aza-bicyclo[3.3.1]non-5-yl)-benzonitrile (1.95 g, 6.16 mmol) in DMSO (55 ml) was charged with potassium carbonate (120 mg, 0.86 mmol) then 30% aqueous hydrogen peroxide (3.2 ml, 30.8 mmol). The reaction mixture was allowed to stir at room temperature for 23 h at which time it was determined not to have proceeded. Additional potassium carbonate (850 mg, 6.16 mmol) and 30% aqueous hydrogen peroxide (6.4 ml, 61.6 mmol) were introduced and stirred for 5.5 h. After a water quench (50 ml), the product was extracted with EtOAc (3×50 ml), washed with 50% saturated aqueous NaCl solution (5×50 ml), dried over Na2SO4, filtered and concentrated to a white solid which was triturated with hexanes and collected (1.0 g, 49%). (TLC 50% EtOAc/hexanes Rf 0.08); 1H NMR (400 MHz, CDCl3) δ 7.83–7.85 (m, 1H), 7.49–7.57 (m, 1H), 7.40–7.47 (m, 1H), 7.38–7.28 (m, 5H), 7.21–7.25 (m, 1H), 6.10 (brs, 1H), 5.63 (brs, 1H); 3.74–3.82 (m, 2H), 3.06–3.15 (m, 2H), 2.86–2.96 (m, 1H), 2.16–2.26 (m, 2H), 1.96–2.08 (m, 4H), 1.84–1.89 (m, 1H), 1.68–1.74 (m, 1H), 1.59–1.65 (m, 1H), 1.34–1.42 (m, 1H); APCI MS m/z 335.1 (M+1)+.

reactant | 3-(2-Benzyl-2-aza-bicyclo[3.3.1]non-5-yl)-benzonitrile | 6.16 mmol, 1.95 g | C(C1=CC=CC=C1)N1C2CCCC(CC1)(C2)C=2C=C(C#N)C=CC2 | C22H24N2
reactant | potassium carbonate | 0.86 mmol, 120 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | 30.8 mmol, 3.2 ml | OO | H2O2
reactant | potassium carbonate | 6.16 mmol, 850 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | 61.6 mmol, 6.4 ml | OO | H2O2
solvent | DMSO | 55 ml | CS(=O)C | C2H6OS
product | 3-(2-Benzyl-2-aza-bicyclo[3.3.1]non-5-yl)-benzamide | C(C1=CC=CC=C1)N1C2CCCC(CC1)(C2)C=2C=C(C(=O)N)C=CC2 | C22H26N2O
